US07863332B2
1.18 g (54 mmol, 3 eq) of lithium borohydride are added to a solution of 6.9 g crude (17.98 mmol, 1 eq) of methyl 3-benzyloxy-4-iodobenzoate in 30 ml of THF. The reaction mixture is heated at 60° C. for 12 hours and then hydrolyzed in saturated ammonium chloride solution NH4Cl and extracted with ethyl acetate. 6.5 g of (3-benzyloxy-4-iodophenyl)methanol are obtained in oil form and are used in the following reaction without further purification.

reactant | lithium borohydride | 54 mmol, 1.18 g, 3 eq | [BH4-].[Li+]
reactant | methyl 3-benzyloxy-4-iodobenzoate | 17.98 mmol, 1 eq | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=CC1I | C15H13IO3
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
product | (3-benzyloxy-4-iodophenyl)methanol | 6.5 g | C(C1=CC=CC=C1)OC=1C=C(C=CC1I)CO | C14H13IO2
